US04530841
A mixture of benzyl 6-(2,2,2-trifluoro-1-hydroxyethyl)-3-morpholino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (25 mg), 10% palladium on powdered charcoal (25 mg), sodium bicarbonate (5 mg), dioxane (2 ml), and water (1 ml) is hydrogenated at 40 psi for 30 mins. The mixture is filtered to remove the catalyst which is washed with water (3×3 ml). The combined filtrate is extracted with ethyl acetate (2×2 ml), concentrated in vacuo, and lyophilized to give sodium 6-(2,2,2-trifluoro-1-hydroxyethyl)-3-morpholino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-(2,2,2-trifluoro-1-hydroxyethyl)-3-morpholino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 25 mg | FC(C(O)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)N1CCOCC1)(F)F | C20H21F3N2O5
reactant | charcoal | 25 mg | C | CH4
reactant | sodium bicarbonate | 5 mg | C([O-])(O)=O.[Na+]
reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
solvent | water | 1 ml | O | H2O
product | sodium 6-(2,2,2-trifluoro-1-hydroxyethyl)-3-morpholino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | FC(C(O)C1C2CC(=C(N2C1=O)C(=O)[O-])N1CCOCC1)(F)F.[Na+] | InChI=1S/C13H15F3N2O5.Na/c14-13(15,16)10(19)8-6-5-7(17-1-3-23-4-2-17)9(12(21)22)18(6)11(8)20;/h6,8,10,19H,1-5H2,(H,21,22);/q;+1/p-1
